US07943607B2
7-Fluoro-3-methyl-2,3-dihydro-4H-1,3-benzoxazin-4-one
A mixture of 4-fluoro-2-hydroxy-N-methyl-benzamide (0.3 g, 1.77 mmol) in formaldehyde (37% aq. soln) (2 mL) and formic acid (2 mL) was refluxed for 1 hour then poured onto ice. The mixture was neutralised with sodium carbonate and extracted into chloroform (3×30 mL). The combined organics were dried (MgSO4), and reduced in vacuo to give a white solid which was chromatographed on silica, eluting with 10-50% ethyl acetate in isohexane to give the desired compound as a white solid (0.24 g).

reactant | 4-fluoro-2-hydroxy-N-methyl-benzamide | 1.77 mmol, 0.3 g | FC1=CC(=C(C(=O)NC)C=C1)O | C8H8FNO2
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | formaldehyde | 2 mL | C=O | CH2O
solvent | formic acid | 2 mL | C(=O)O | CH2O2
product | 7-Fluoro-3-methyl-2,3-dihydro-4H-1,3-benzoxazin-4-one | 0.24 g | FC1=CC2=C(C(N(CO2)C)=O)C=C1 | C9H8FNO2
